US06147216
Step c: 2-(4-(1-Hydroxy-4-(4-(hydroxydiphenylmethyl)-1-piperidinyl)-butyl)-phenyl)-2-methyl-propanol
Dissolve 2-(4-(1-oxo-4-(4-(hydroxydiphenylmethyl)-1-piperidinyl)-butyl)-phenyl)-2-methylpropanol in methanol (450 mL) and stir for 15 minutes at room temperature. Add, by dropwise addition, a solution of sodium borohydride (2.25 g, 0.06 mol) in water (10 mL) over 15 minutes. Stir for another 30 minutes and cool in an ice-bath. Slowly add concentrated hydrochloric acid (4 mL) and water (8 mL) and stir for an additional 20 minutes. Evaporate the solvent in vacuo and partition the residue between methylene chloride (150 mL) and water (70 mL). Separate the organic phase and extract the aqueous phase with methylene chloride (25 mL). Wash the combined organic layers with water (2×50 mL), evaporate the solvent in vacuo and recrystallize (acetone) to give the title compound as white needles (9.53 g, 79%).

reactant | 2-(4-(1-oxo-4-(4-(hydroxydiphenylmethyl)-1-piperidinyl)-butyl)-phenyl)-2-methylpropanol | O=C(CCCN1CCC(CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)O)C1=CC=C(C=C1)C(CO)(C)C | C32H39NO3
reactant | sodium borohydride | 0.06 mol, 2.25 g | [BH4-].[Na+]
reactant | hydrochloric acid | 4 mL | Cl | ClH
solvent | methanol | 450 mL | CO | CH4O
solvent | water | 10 mL | O | H2O
solvent | water | 8 mL | O | H2O
product | 2-(4-(1-Hydroxy-4-(4-(hydroxydiphenylmethyl)-1-piperidinyl)-butyl)-phenyl)-2-methyl-propanol | 9.53 g, 79% | OC(CCCN1CCC(CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)O)C1=CC=C(C=C1)C(CO)(C)C | C32H41NO3
